US09233933B2
Compound 165 (10.2 g, 23.1 mmol), pyridine-2-carboximidamide hydrochloride (6.37 g, 40.4 mmol), sodium bicarbonate (7.76 g, 92.4 mmol) and dioxane (200 mL) were heated and stirred at 60° C. during 6 hours and stirred further overnight at 40° C. The reaction mixture was filtered and concentrated. The residue was purified by column chromatography on silica using a gradient from 5 till 100% EtOAc in heptane. The product fractions were combined and concentrated yielding methyl 2,2,3,5-tetrafluoro-6′-oxo-2′-(pyridin-2-yl)-2,3,5′,6′-tetrahydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate (6.1 g) as a light yellow amorphous powder. A solution of methyl 2′,2′,3′,5′-tetrafluoro-6-oxo-2-(2-pyridyl)spiro[1,5-dihydropyrimidine-4,1′-indane]-5-carboxylate in phosphorus oxychloride (50 g) equipped with a CaCl2 drying tube was heated at 110° C. during 210 minutes. The reaction mixture was concentrated, the residue dissolved in CH2Cl2 (200 mL), poured in saturated NaHCO3 (200 mL) solution and stirred 30 minutes. The organic layer was dried over sodium sulphate, filtered and concentrated. The residue was purified by column chromatography on silica using a gradient from 5 till 100% EtOAc in heptane. methyl 6′-chloro-2,2,3,5-tetrafluoro-2′-(pyridin-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate was isolated as two separate diastereoisomers: and compound 167A (1046 mg after second purification) and compound 167B (1705 mg).

reactant | methyl 2′,2′,3′,5′-tetrafluoro-6-oxo-2-(2-pyridyl)spiro[1,5-dihydropyrimidine-4,1′-indane]-5-carboxylate | FC1(C2(C3=CC=C(C=C3C1F)F)N=C(NC(C2C(=O)OC)=O)C2=NC=CC=C2)F | C19H13F4N3O3
reactant | phosphorus oxychloride | 50 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 6′-chloro-2,2,3,5-tetrafluoro-2′-(pyridin-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate | ClC1=C(C2(N=C(N1)C1=NC=CC=C1)C(C(C1=CC(=CC=C12)F)F)(F)F)C(=O)OC | C19H12ClF4N3O2
